US05175166
Amino(pyrimidin-5-yl)acetamide
Amino(pyrimidin-5-yl)acetonitrile (1.1 g, 8.2 mmol) is hydrolyzed by refluxing in a small volume of dilute HCl for 1 hour. The pH is raised to 10 by addition of saturated sodium carbonate and the mixture then extracted with chloroform. Evaporation of the chloroform and chromatography (silica, chloroform/methanol) gives product as a yellow solid 950 mg (81%) ms m/z=142.

reactant | Amino(pyrimidin-5-yl)acetonitrile | 8.2 mmol, 1.1 g | NC(C#N)C=1C=NC=NC1 | C6H6N4
reactant | HCl | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | Amino(pyrimidin-5-yl)acetamide | 950 mg, 81% | NC(C(=O)N)C=1C=NC=NC1 | C6H8N4O
